US05866712
Preparation of 3-t-Butylperoxy-1,3-dimethylbutyl Ethyl Oxalate (I-1)
A 125 mL Erlenmeyer flask equipped with a magnetic stirring bar was chargedwith 10.0 g (48.4 mmoles) of 92% 3-t-butylperoxy-1,3-dimethylbutanol, 7.8 g(77.2 mmoles) of triethylamine, 0.1 g (0.08 mmole) of 4-dimethylaminopyridine and 30 g of dry ethyl acetate. A clear solution resulted at room temperature. To this vigorously stirred solution at room temperature was slowly added a solution consisting of 7.0 g (50.2 mmoles) of ethyl oxalyl chloride and 10 g of dry ethyl acetate over a period of 20minutes. A precipitate immediately formed and the flask became warm. It wasnecessary to cool the flask in order to maintain the temperature around room temperature. After a total reaction period of 60 minutes, the reaction mass was transferred to a separatory funnel, 100 mL of water was added to the reaction mass and shaken. The aqueous phase was separated anddiscarded. The organic phase was washed once with aqueous 10% HCl solution,twice with water and once with dilute aqueous NaHCO3 solution. The resulting solution was dried over about 10% by weight of anhydrous MgSO4, and, after separation of the spent desiccant by filtration, the solvent was removed in vacuo leaving 13.9 g (99% of theory, uncorrected) of a clear yellow liquid. The product contained 5.79% active oxygen (theory, 5.51%), therefore, compound I-1, was obtained with an assay of 100% and in a corrected yield of 99%. Gas chromatographic analysis showed that the product contained less than 0.1% of 3-t-butylperoxy-1,3-dimethylbutanol, the starting material. An infrared (IR) spectrum of the product showed carbonyl bands at 1770 cm-1 and 1745 cm-1 and a peroxide (--OO--) band at 870 cm-1.

reactant | 3-t-butylperoxy-1,3-dimethylbutanol | 48.4 mmoles, 10.0 g | C(C)(C)(C)OOC(CC(O)C)(C)C | C10H22O3
reactant | triethylamine | 77.2 mmoles, 7.8 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 30 g | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 10 g | C(C)(=O)OCC | C4H8O2
reactant | oxygen | O=O | O2
catalyst | 4-dimethylaminopyridine | 0.08 mmole, 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 100 mL | O | H2O
product | 3-t-Butylperoxy-1,3-dimethylbutyl Ethyl Oxalate | yield of 99% | C(C(=O)OCC)(=O)OC(CC(C)(C)OOC(C)(C)C)C | C14H26O6
